US07488832B2
Step 5: N-{2-[2-Phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetyl}-guanidine
Guanidine HCl (700 mmol, 66.5 mg) is dissolved in 1 mL of 0.5M NaOMe/methanol solution and rotated to dryness. The residue is subsequently dissolved in 400 uL dry DMSO. A white NaCl precipitate remained and the supernatant (free guanidine base in solution) is added to a vial containing [2-phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid methyl ester (170 mmol, 64 mg). The solution is agitated in a shaker at room temperature. The reaction is quenched with excess AcOH (75 uL), concentrated in vacuo. The residue is dissolved in a mixture of DMSO, MeOH and water (1.5 mL total) and purified by Gilson preparative HPLC system.

reactant | Guanidine HCl | 700 mmol, 66.5 mg | Cl.NC(=N)N
reactant | NaCl | [Na+].[Cl-]
reactant | guanidine | NC(=N)N | CH5N3
reactant | [2-phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetic acid methyl ester | 170 mmol, 64 mg | COC(CN1C(=CC=C1C1=CC=C(C=C1)N1CCCCC1)C1=CC=CC=C1)=O | C24H26N2O2
solvent | NaOMe methanol | 0.5M, 1 mL | C[O-].[Na+].CO
solvent | DMSO | 400 uL | CS(=O)C | C2H6OS
product | N-{2-[2-Phenyl-5-(4-piperidin-1-yl-phenyl)-pyrrol-1-yl]-acetyl}-guanidine | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=C(C=C1)N1CCCCC1)CC(=O)NC(=N)N | C24H27N5O
